US04883815
6.17 g (0.024 mol) of 8,9-dichloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline are dissolved in 10 ml of pyridine, 9 ml (0.09 mol) of acetic anhydride are added dropwise thereto and the mixture is stirred at room temperature for 17 hours. Chromatography on silica gel with chloroform yields a product which is suspended in ether and removed by filtration. There is obtained 4-acetyl-8,9-dichloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline with melting point 146°-148°.

reactant | 8,9-dichloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 0.024 mol, 6.17 g | ClC1=CC2=C(C=3CCCNC3CC2)C=C1Cl | C13H13Cl2N
reactant | acetic anhydride | 0.09 mol, 9 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 4-acetyl-8,9-dichloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | C(C)(=O)N1CCCC=2C3=C(CCC12)C=C(C(=C3)Cl)Cl | C15H15Cl2NO
